US07291632B2
Preparation 11. 1-methyl-4-(N-(3-aminophenyl)-N-methylamino)piperidine trihydrochloride
Combine acetyl chloride (5 mL) with dried methanol (10 mL) at 0° C. under nitrogen atmosphere. Stir for 1 hr. at 0° C. Add a solution of (3-(methyl-(1-methylpiperidin-4-yl)amino)phenyl)carbamic acid tert-butyl ester (Preparation 10, 990 mg, 3.1 mmol) in methanol (2 mL). Stir overnight. Concentrate under reduced pressure. Triture with diethyl ether (1 mL) to provide the title intermediate (671 mg, 66%): mass spectrum (free base, ion spray): m/z=220.3 (M+1). Analysis calculated for C13H24Cl3N3Cl3: C, 47.50; H, 7.36; N, 12.78. Found: C, 47.28; H, 7.28; N, 12.46.

reactant | acetyl chloride | 5 mL | C(C)(=O)Cl | C2H3ClO
reactant | (3-(methyl-(1-methylpiperidin-4-yl)amino)phenyl)carbamic acid tert-butyl ester | 3.1 mmol, 990 mg | C(C)(C)(C)OC(NC1=CC(=CC=C1)N(C1CCN(CC1)C)C)=O | C18H29N3O2
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 1-methyl-4-(N-(3-aminophenyl)-N-methylamino)piperidine trihydrochloride | 671 mg, 66% | Cl.Cl.Cl.CN1CCC(CC1)N(C)C1=CC(=CC=C1)N | InChI=1S/C13H21N3.3ClH/c1-15-8-6-12(7-9-15)16(2)13-5-3-4-11(14)10-13;;;/h3-5,10,12H,6-9,14H2,1-2H3;3*1H
